US07541372B2
{4-[5-(2-Methoxy-4-morpholin-4-yl-phenyl)-[1,3,4]oxadiazol-2-yl]-3-phenyl-isoxazol-5-yl}-dimethyl-amine
To a suspension of 4-{4-[5-(5-chloro-3-phenyl-isoxazol-4-yl)-[1,3,4]oxadiazol-2yl]-3-methoxy-phenyl}-morpholine (100 mg, 0.23 mmol) in DMSO (1 mL) was added dimethylamine hydrochloride (93 mg, 1.14 mmol) and potassium carbonate (158 mg, 1.14 mmol). The reaction mixture was stirred for 2 h at ambient temperature. It was diluted with water (5 mL) and the resulting suspension was stirred for 15 min at this temperature. Filtration and washing with water (5 mL) and tert-butylmethylether (5 mL) afforded the title compound (80 mg, 78%) which was obtained as an off-white solid. MS: m/e=448.2 [M+H]+.

reactant | 4-{4-[5-(5-chloro-3-phenyl-isoxazol-4-yl)-[1,3,4]oxadiazol-2yl]-3-methoxy-phenyl}-morpholine | 0.23 mmol, 100 mg | ClC1=C(C(=NO1)C1=CC=CC=C1)C1=NN=C(O1)C1=C(C=C(C=C1)N1CCOCC1)OC | C22H19ClN4O4
reactant | dimethylamine hydrochloride | 1.14 mmol, 93 mg | Cl.CNC
reactant | potassium carbonate | 1.14 mmol, 158 mg | C([O-])([O-])=O.[K+].[K+]
solvent | DMSO | 1 mL | CS(=O)C | C2H6OS
solvent | water | 5 mL | O | H2O
product | {4-[5-(2-Methoxy-4-morpholin-4-yl-phenyl)-[1,3,4]oxadiazol-2-yl]-3-phenyl-isoxazol-5-yl}-dimethyl-amine | 80 mg, 78% | COC1=C(C=CC(=C1)N1CCOCC1)C1=NN=C(O1)C=1C(=NOC1N(C)C)C1=CC=CC=C1 | C24H25N5O4
